US04721784
3,4-Dihydro-1,4(2H)-benzoxazine
3,4-Dihydro-3-oxo-1,4(2H)-benzoxazine was refluxed for several hours in one equivalent of diborane in tetrahydrofuran. Excess sodium hydroxide solution was added, the product was extracted with ether and the solvent was evaporated to give the title compound as an oil.

reactant | 3,4-Dihydro-3-oxo-1,4(2H)-benzoxazine | O=C1COC2=C(N1)C=CC=C2 | C8H7NO2
reactant | diborane | one equivalent | B#B | B2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-Dihydro-1,4(2H)-benzoxazine | O1CCNC2=C1C=CC=C2 | C8H9NO
